US05063207
BOC-NHCH(CO2Me)CO2CH2Ph
H2NCH(CO2Me)CO2CH2Ph (94 g) was dissolved in ethyl ether (750 ml) and cooled to 5°. Di-t-butyldicarbonate (91.7 g) was added and the mixture was held at 4° overnight. The mixture was stripped to an orange oil (135 g). This oil was chromatographed on silica gel, eluting with hexane-ethyl acetate (85:15). The major product was recovered as an oil which solidified upon standing (67 g). MS (FAB) 324 (m+1).

reactant | H2NCH(CO2Me)CO2CH2Ph | 94 g | NC(C(=O)OC)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | Di-t-butyldicarbonate | 91.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl ether | 750 ml | C(C)OCC | C4H10O
product | BOC-NHCH(CO2Me)CO2CH2Ph | C(=O)(OC(C)(C)C)NC(C(=O)OC)C(=O)OCC1=CC=CC=C1 | C16H21NO6
